* Z:\home\xenir\git\ltspice\bandpass.asc
C1 N002 0 390pF
C2 N003 N002 6.8pF
C3 0 N004 390pF
L1 N004 0 330nH
L2 N002 0 330nH
L3 N003 N004 18µH
V1 N001 0 AC 1
L4 N001 0 20µH
L5 0 N002 80µH
L6 N004 0 80µH
L7 0 N005 20µH
R2 N005 0 50
C4 N013 0 115pF
C5 N014 N013 10pF
C6 0 N014 115pF
L8 N014 0 2110nH
L9 N013 0 2110nH
V2 N011 0 AC 1
L10 N012 0 50nH
L11 N015 0 50nH
R1 N015 0 50
R3 N012 N011 50
C8 N027 N026 100nF
L12 N027 0 20µH
L13 N026 0 20µH
V3 N024 0 AC 1
L14 N025 0 10µH
L15 N028 0 10µH
R4 N028 0 50
R5 N025 N024 50
L16 N022 0 40µH
L17 N023 N034 10µH
V4 N021 0 AC 1 Rser=.1
L18 N034 0 10µH
R6 N023 N033 200
R7 N033 0 100
C7 N022 N021 100nF
C9 N008 0 150pF
C10 N009 N008 15pF
C11 0 N009 150pF
L19 N009 0 3µH
L20 N008 0 3µH
V5 N006 0 AC 1
L21 N007 0 120nH
L22 N010 0 120nH
R8 N010 0 50
R9 N007 N006 50
C12 N018 0 36pF
C13 N019 N018 5pF
C14 0 N019 36pF
L23 N019 0 1.88µH
L24 N018 0 1.88µH
V6 N016 0 AC 1 Rser=.1
R10 N020 0 50
R11 N017 N016 50
L25 N017 0 .24µH
L26 N020 0 .24µH
C15 N038 N037 82pF
L28 N036 N037 1.7µH
V7 N035 0 AC 1
R12 N038 0 50
R13 N036 N035 50
C16 N036 0 82pF
C17 N051 0 240pF
C18 N052 N051 12pF
C19 0 N052 240pF
L27 N052 0 1.94µH
L29 N051 0 1.94µH
V8 N049 0 AC 1
L30 N050 0 40nH
L31 N053 0 40nH
R14 N053 0 50
R15 N050 N049 50
C20 N056 0 90pF
C21 N057 N056 15pF
C22 0 N057 90pF
L32 N057 0 2.4µH
L33 N056 0 2.4µH
V9 N054 0 AC 1
L34 N055 0 100nH
L35 N058 0 100nH
R16 N058 0 50
R17 N055 N054 50
C23 N040 0 190pF
C24 N041 N040 12pF
C25 0 N041 190pF
L36 N041 0 1.2µH
L37 N040 0 1.2µH
V10 N039 0 AC 1 Rser=50
L38 N039 0 50nH
L39 N042 0 50nH
R18 N042 0 50
C26 N030 0 180pF
C27 N031 N030 20pF
C28 0 N031 180pF
L40 N031 0 2.5µH
L41 N030 0 2.5µH
V11 N029 0 AC 1 Rser=50
L42 N029 0 100nH
L43 N032 0 100nH
R19 N032 0 50
C29 N043 0 90pF
C30 N044 N043 12pF
C31 0 N044 90pF
L44 N044 0 1.2µH
L45 N043 0 1.2µH
V12 Vin 0 AC 1 Rser=50
L46 Vin 0 50nH
L47 Vout 0 50nH
R20 Vout 0 50
C32 N060 0 37pF
C33 N061 N060 12pF
C34 0 N061 37pF
L48 N061 0 3µH
L49 N060 0 3µH
V13 N059 0 AC 1 Rser=50
L50 N059 0 120nH
L51 N062 0 120nH
R21 N062 0 50
C35 N064 0 209pF
C36 N065 N064 12pF
C37 0 N065 209pF
L52 N065 0 600nH
L53 N064 0 600nH
V14 N063 0 AC 1 Rser=50
L54 N063 0 24nH
L55 N066 0 24nH
R22 N066 0 50
C38 N046 0 470pF
C40 0 N047 470pF
V15 N045 0 AC 1 Rser=50
R23 N048 0 50
L56 N046 N047 680nH
L57 N047 N048 680nH
L58 N045 N046 680nH
C39 N045 0 220pF
C41 N048 0 220pF
.ac oct 501 1Meg 60Meg
K1 L4 L5 1
K2 L7 L6 1
K4 L10 L9 1
K5 L8 L11 1
K7 L14 L13 1
K8 L12 L15 1
K8 L16 L17 L18 1
K41 L20 L21 1
K51 L19 L22 1
K100 L25 L24 1
K101 L23 L26 1
K47 L30 L29 1
K48 L27 L31 1
K471 L34 L33 1
K481 L32 L35 1
K472 L38 L37 .95
K482 L36 L39 .95
K501 L41 L42 .95
K502 L43 L40 .95
* 7 MHz Bandpass
K503 L45 L46 .95
K504 L44 L47 .95
* 14 MHz Bandpass
K507 L50 L49 .95
K508 L48 L51 .95
* 14 MHz Bandpass
K509 L53 L54 .95
K510 L52 L55 .95
* 14 MHz Bandpass
* 14 MHz Lowpass
.backanno
.end
